US05039815
At 0° C., 13.1 g of thionyl chloride is added to a solution of 15.222 g of 1,2,4-triazole in 150 ml of methylene choride. After all has been added, the mixture is stirred for 30 minutes at room temperature (20° C.): subsequently, 15.5 g of 2,3-biphenylpropanal is added. After the mixture has been stirred at room temperature for 12 to 15 hours, 100 ml of water is added and the organic phase separated off. The aqueous phase which remains is extracted by shaking twice with methylene chloride, and the collected organic phases are washed twice with saturated sodium bicarbonate solution. The isolated organic phase -s then dried over sodium sulfate and concentrated. There is obtained 30.0 g (92%) of 1-chloro-1-(1,2,4-triazol-1-yl-)2,3-diphenylpropane. The compounds listed in the table below may be obtained analogously to Example 1:

reactant | thionyl chloride | 13.1 g | S(=O)(Cl)Cl | Cl2OS
reactant | 1,2,4-triazole | 15.222 g | N1N=CN=C1 | C2H3N3
reactant | 2,3-biphenylpropanal | 15.5 g | C=1(C(=CC=CC1)C=1C=CC=CC1)CCC=O | C15H14O
reactant | water | 100 ml | O | H2O
reactant | methylene choride | 150 ml | C(Cl)Cl | CH2Cl2
product | 1-chloro-1-(1,2,4-triazol-1-yl-)2,3-diphenylpropane | 30.0 g, 92% | ClC(C(CC1=CC=CC=C1)C1=CC=CC=C1)N1N=CN=C1 | C17H16ClN3
